US07951828B1
Step 2: Production of N-(5-bromo-2-pyrimidinyl)-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-N-isobutyryl-2-methyl benzoic acid amide
In a solution of 1.5 g of N-(5-bromo-2-pyrimidinyl)-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl benzoic acid amide, 0.42 g of triethylamine and 0.03 g of 4-(dimethylamino)pyridine in 50 mL of tetrahydrofuran, 0.42 g of isobutyryl chloride was added at room temperature with stirring and stirred at the same temperature for 18 hours. After the completion of the reaction, 50 mL of water was added in the reaction mixture, extracted with ethyl acetate (80 mL×1), 5 g of silica gel was added in the organic phase, stirred and filtered off, and then the solvent was distilled off under reduced pressure. The residue was subjected to crystallization from diethyl ether and hexane to obtain 0.87 g of the aimed product as white crystal.

reactant | N-(5-bromo-2-pyrimidinyl)-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl benzoic acid amide | 1.5 g | BrC=1C=NC(=NC1)NC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O | C22H14BrCl2F3N4O2
reactant | triethylamine | 0.42 g | C(C)N(CC)CC | C6H15N
reactant | isobutyryl chloride | 0.42 g | C(C(C)C)(=O)Cl | C4H7ClO
reactant | water | 50 mL | O | H2O
catalyst | 4-(dimethylamino)pyridine | 0.03 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | N-(5-bromo-2-pyrimidinyl)-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-N-isobutyryl-2-methyl benzoic acid amide | 0.87 g | BrC=1C=NC(=NC1)N(C(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O)C(C(C)C)=O | C26H20BrCl2F3N4O3
